US06599922B2
The process according to claim 1, further comprising following onto phase a) of formation of the intermediate 2′,2′,2′-trifluoroethanol 2,5-bis-(2,2,2-trifluoroethoxy)benzoate by the reaction of 2,5-dihydroxybenzoic acid with 2,2,2-trifluoroethanol perfluorobutanesulphonate in the presence of inorganic bases, the reaction of the intermediate 2′,2′,2′-trifluoroethanol 2,5-bis-(2,2,2-trifluoroethoxy)benzoate with 2-aminomethyl-piperdine, said phase b), to give FLECAINIDE base.

reactant | 2,5-dihydroxybenzoic acid | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | 2,2,2-trifluoroethanol perfluorobutanesulphonate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OCC(F)(F)F)F | C6H2F12O3S
reactant | 2-aminomethyl-piperdine | NCC1NCCCC1 | C6H14N2
product | FLECAINIDE | C1=CC(=C(C=C1OCC(F)(F)F)C(=O)NCC2CCCCN2)OCC(F)(F)F | C17H20F6N2O3
